US04756739
5-(1,1,2,2-tetrafluoroethoxy)-2-hydroxypyridine
A solution of 10.3 g (149 mmol) of sodium nitrite in 16.5 ml of water was added dropwise with stirring to a solution of 23 g (109 mmol) of 2-amino-5-(1,1,2,2-tetrafluoroethoxy)pyridine in 103 ml of water and 21.9 g of concentrated sulfuric acid at 0° C. The mixture was stirred for 3 hours at 20°-25° C., and the colorless solid was filtered off under suction and washed with water until free of acid.

reactant | sodium nitrite | 149 mmol, 10.3 g | N(=O)[O-].[Na+]
reactant | 2-amino-5-(1,1,2,2-tetrafluoroethoxy)pyridine | 109 mmol, 23 g | NC1=NC=C(C=C1)OC(C(F)F)(F)F | C7H6F4N2O
reactant | sulfuric acid | 21.9 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 16.5 ml | O | H2O
solvent | water | 103 ml | O | H2O
product | 5-(1,1,2,2-tetrafluoroethoxy)-2-hydroxypyridine | FC(C(F)F)(OC=1C=CC(=NC1)O)F | C7H5F4NO2
